US07459554B2
2-[3-(8-Amino-3-cyclobutyl-imidazo[1,5-a]pyrazin-1-yl)-phenoxymethyl]-Benzonitrile:
A solution of 3-(8-Amino-3-cyclobutyl-imidazo[1,5-a]pyrazin-1-yl)-phenol (500 mg, 1.78 mmol) in DMF (8.9 mL) was charged with Cs2CO3 (871 mg, 2.68 mmol) and stirred for 30 min. at rt. A solution of 2-cyanobenzyl bromide (500 mg, 1.78 mmol) in DMF was added to the reaction mixture. After 24 h at rt the reaction mixture was concentrated in vacuo and chromatographed on silica gel [Jones Flashmaster, 10 g cartridge, eluting with 50% EtOAc:hexanes to 100% EtOAc]. The product was then recrystalized with CH2Cl2 and hexanes yielding the title compound as a light red solid; 1H NMR (CDCl3, 400 MHz) δ 2.02-2.06 (m, 1H), 2.11-2.33 (m, 1H), 2.45-2.53 (m, 2H), 2.59-2.69 (m, 2H), 3.77-3.86 (m, 1H), 5.33 (s, 2H), 7.02-7.04 (m, 1H), 7.05 (dd, J=2.4 Hz, 1H), 7.10 (d, J=5.2 Hz, 1H), 7.29-7.30 (m, 1H), 7.33 (q, J=3.6, 11H), 7.40-7.64 (m, 2H), 7.61-7.66 (m, 1H), 7.70-7.72 (m, 2H); MS (ES+): m/z 395.99 (100) [MH+].

reactant | 3-(8-Amino-3-cyclobutyl-imidazo[1,5-a]pyrazin-1-yl)-phenol | 1.78 mmol, 500 mg | NC=1C=2N(C=CN1)C(=NC2C=2C=C(C=CC2)O)C2CCC2 | C16H16N4O
reactant | Cs2CO3 | 2.68 mmol, 871 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | 2-cyanobenzyl bromide | 1.78 mmol, 500 mg | C(#N)C1=C(CBr)C=CC=C1 | C8H6BrN
solvent | DMF | 8.9 mL | CN(C)C=O | C3H7NO
product | 2-[3-(8-Amino-3-cyclobutyl-imidazo[1,5-a]pyrazin-1-yl)-phenoxymethyl]-Benzonitrile | NC=1C=2N(C=CN1)C(=NC2C=2C=C(OCC1=C(C#N)C=CC=C1)C=CC2)C2CCC2 | C24H21N5O
